US06509361B1
Step 1: Preparation of 1-(4-Pyridinyl)-2-methyl-1,3-propanedione
A mixture of 4-propionylpyridine (5 g, 36.99 mmol) and dimethylformamide dimethylacetal(10 mL, 75.28 mmol) was heated to reflux overnight. After cooling to room temperature, methanol generated in situ was removed from reaction mixture under reduced pressure, providing a brown color solid. The crude product was purified by column chromatography (silica gel, 3:7 EtOAc/haxane) to give the named compound (5.73 g, 81%) as a brown oil.

reactant | 4-propionylpyridine | 36.99 mmol, 5 g | C(CC)(=O)C1=CC=NC=C1 | C8H9NO
reactant | dimethylformamide dimethylacetal | 75.28 mmol, 10 mL | COC(N(C)C)OC | C5H13NO2
reactant | methanol | CO | CH4O
product | 1-(4-Pyridinyl)-2-methyl-1,3-propanedione | 5.73 g, 81% | N1=CC=C(C=C1)C(C(C=O)C)=O | C9H9NO2
